US05827865
Methyl 3-(4-hydroxyphenyl)-2-methoxypropanoate
A solution of methyl 2-diazo-3-(4-hydroxyphenyl)propanoate (cf Tetrahedron Lett., 1971, 4495) (8.58 g) in methanol (120 mL) was added over 10 minutes to a mixture of rhodium (II) acetate dimer (0.18 g) in methanol (50 mL) at room temperature under a nitrogen atmosphere. The resulting mixture was heated at reflux for 5 hrs, allowed to stand at room temperature for 15 hrs, then concentrated in vacuo. The residue was dissolved in ethyl acetate (500 mL), washed with water (3×300 mL) and brine (500 mL), dried (MgSO4) and evaporated. The resulting gum was chromatographed on silica gel with a gradient of 4% ethyl acetate to 6% ethyl acetate in dichloromethane as eluent to afford the title compound. mp 61°-3° C.

reactant | methyl 2-diazo-3-(4-hydroxyphenyl)propanoate | 8.58 g | [N+](=[N-])=C(C(=O)OC)CC1=CC=C(C=C1)O | C10H10N2O3
reactant | methanol | 120 mL | CO | CH4O
reactant | methanol | 50 mL | CO | CH4O
catalyst | rhodium (II) acetate dimer | 0.18 g | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | Methyl 3-(4-hydroxyphenyl)-2-methoxypropanoate | OC1=CC=C(C=C1)CC(C(=O)OC)OC | C11H14O4
